* Z:\mnt\design.r\spice\examples\1681.asc
XU1 IN 0 0 0 N008 N007 MP_01 N010 N013 N016 N012 N014 N011 IN 0 N006 N006 N005 N002 N001 LT1681
M§Q1 IN N002 N005 N005 IRF7303
M§Q2 N009 N006 N012 N012 IRF7303
V1 IN 0 16
R1 N012 0 25m
C1 N010 0 .001µ
C2 N016 N015 .001µ
R2 N015 N013 100
R3 N013 0 1K
R4 N013 OUT 1K
C3 N007 0 150p
R5 N008 N007 52.3K
L1 N005 N009 300µ
L2 N003 0 300µ
D1 0 N004 MBRS360
L3 N004 OUT 10µ
C4 OUT 0 100µ Rser=50m
Rload OUT 0 .5
C5 N005 N001 .5µ
D2 N003 N004 MBRS360
D3 IN N001 1N5817
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 1.
.tran 500u startup
.lib LT1681.sub
.backanno
.end
